US07429609B2
(2-Chlorothiophen-3-yl)naphthalen-2-yl Methanol
Under nitrogen atmosphere, to a solution of 3.2 mL of 1.57 M n-butyllithium in hexane in 7 mL of diethyl ether was added a solution of 1.00 g of 3-bromo-2-chlorothiophene in 8 mL diethyl ether at −78° C., and stirred at this temperature for 1 hour. At the same temperature, 0.87 g of 2-naphthaldehyde was added, stirred for 3 hours while raising the temperature to room temperature, then added with water, extracted with ethylacetate, washed successively with saturated aqueous ammonium chloride and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resultant crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:20-1:5), to afford 1.18 g of the title compound as colorless crystals.

reactant | n-butyllithium | 1.57 M, 3.2 mL | C(CCC)[Li]
reactant | 3-bromo-2-chlorothiophene | 1.00 g | BrC1=C(SC=C1)Cl | C4H2BrClS
reactant | 2-naphthaldehyde | 0.87 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 7 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 8 mL | C(C)OCC | C4H10O
product | (2-Chlorothiophen-3-yl)naphthalen-2-yl Methanol | 1.18 g | ClC=1SC=CC1C(O)C1=CC2=CC=CC=C2C=C1 | C15H11ClOS
